US04474964
To 60 ml of absolute methyl alcohol were added 10 g of 4-phenoxy-2-butyl tosylate and 9.62 g of diethylamine. The mixture was reacted in a sealed tube for one hour at 125° C. After the reaction solution was condensed under reduced pressure, 100 ml of diethyl ether was added into the solution and the solution was separated with 20% aqueous sodium hydroxide solution. The ether layer was dried with anhydrous sodium sulfate, and the ether was removed under reduced pressure therefrom. The residue thus obtained was subjected to alumina-column chromatography using chloroform as the solvent to give 5.32 g of 1-methyl-3-phenoxypropyldiethylamine in a yield of 77%.

reactant | methyl alcohol | 60 ml | CO | CH4O
reactant | 4-phenoxy-2-butyl tosylate | 10 g | S(=O)(=O)(OC(C)CCOC1=CC=CC=C1)C1=CC=C(C)C=C1 | C17H20O4S
reactant | diethylamine | 9.62 g | C(C)NCC | C4H11N
reactant | diethyl ether | 100 ml | C(C)OCC | C4H10O
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 1-methyl-3-phenoxypropyldiethylamine | 5.32 g, yield of 77% | CC(CCOC1=CC=CC=C1)N(CC)CC | C14H23NO
